US09108921B2
Step A: 4-(quinoline-8-sulfonamido)benzoic acid (1A)
To a solution of 4-aminobenzoic acid (10 g, 73 mmol) in 100 mL of anhydrous THF was added pyridine (1.15 g, 146 mmol), and quinoline-8-sulfonyl chloride (20 g, 88 mmol) at 0° C. The resulting mixture was stirred at 70° C. overnight. After filtration, the residue was washed with EtOH and 14 g of title compound was obtained as pure product.

reactant | 4-aminobenzoic acid | 73 mmol, 10 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | pyridine | 146 mmol, 1.15 g | N1=CC=CC=C1 | C5H5N
reactant | quinoline-8-sulfonyl chloride | 88 mmol, 20 g | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H6ClNO2S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(quinoline-8-sulfonamido)benzoic acid | 14 g | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)NC1=CC=C(C(=O)O)C=C1 | C16H12N2O4S
